US05962458
A mixture of 4-chloro-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline (49 mg, 0.16 mmol) and 3-hydroxyaniline (21 mg, 0.19 mmol) in isopropanol (3 ml) and isopropanolic hydrogen chloride (0.2 ml of a 5M solution) was stirred at 80° C. for 1 hour. The precipitated solid was collected by filtration, washed with isopropanol and ether and dried under vacuum to give 4-(3-hydroxyanilino)-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline hydrochloride (56 mg, 93%).

reactant | 4-chloro-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline | 0.16 mmol, 49 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN1C=NC=C1 | C14H13ClN4O2
reactant | 3-hydroxyaniline | 0.19 mmol, 21 mg | OC=1C=C(N)C=CC1 | C6H7NO
solvent | isopropanol | 3 ml | C(C)(C)O | C3H8O
solvent | hydrogen chloride | Cl | ClH
product | 4-(3-hydroxyanilino)-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline hydrochloride | 56 mg, 93% | Cl.OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN2C=NC=C2)C=CC1 | InChI=1S/C20H19N5O3.ClH/c1-27-18-10-16-17(11-19(18)28-8-7-25-6-5-21-13-25)22-12-23-20(16)24-14-3-2-4-15(26)9-14;/h2-6,9-13,26H,7-8H2,1H3,(H,22,23,24);1H
